US09126988B2
A suspension of 2,5-Dichloro-4,6-dimethyl-nicotinonitrile (45.0 kg) and 50% hydroxylamine (59.2 kg) in the presence of catalytic amount of 1,10-phenanthroline monohydrate (0.680 kg) in methanol/water (214 kg/362 kg) is heated to 70-80° C. The mixture is agitated at 70-80° C. Water (353 kg) is added slowly into the resulting solution while the temperature is maintained at >79° C. The solution is cooled to 75° C. with stirring resulting in crystallization of (Z)-2,5-dichloro-N′-hydroxy-4,6-dimethylnicotinimidamide. The suspension is further cooled to 20° C., the solid is filtered off and the wet cake is washed with water (160 kg). (Z)-2,5-dichloro-N′-hydroxy-4,6-dimethylnicotinimidamide is dried under vacuum at max. 60° C. until residual water level is max 0.15% (KF).

reactant | 2,5-Dichloro-4,6-dimethyl-nicotinonitrile | 45.0 kg | ClC1=C(C#N)C(=C(C(=N1)C)Cl)C | C8H6Cl2N2
reactant | hydroxylamine | 59.2 kg | NO | H3NO
reactant | 1,10-phenanthroline monohydrate | 0.680 kg | O.N1=CC=CC2=CC=C3C=CC=NC3=C12
reactant | Water | 353 kg | O | H2O
solvent | methanol water | 214 kg | CO.O
product | (Z)-2,5-dichloro-N′-hydroxy-4,6-dimethylnicotinimidamide | ClC1=C(/C(/N)=N/O)C(=C(C(=N1)C)Cl)C | C8H9Cl2N3O
